US07759337B2
Synthesis of N-cyclopropyl-4-methyl-3-(1-(2-methylpyrrolidin-1-yl)phthalazin-6-yl)benzamide
A mixture of 3-(1-chlorophthalazin-6-yl)-N-cyclopropyl-4-methylbenzamide (300 mg, 888 μmol) and 2-methylpyrrolidine (272 μl, 2664 μmol, Aldrich) in NMP (3 mL) was heated to 160° C. for 18 h. The solution was purified with reverse-phase chromatography (Phenomenex Synergi 4m Max RP 80 A column, 150×21 mM, 20 mL/min, 10-95% CH3CN/H2O, 0.1% TFA, 10.5 min gradient) to afford the title compound. Found MS (ESI, pos. ion) m/z: 387 (M+1).

reactant | 3-(1-chlorophthalazin-6-yl)-N-cyclopropyl-4-methylbenzamide | 888 μmol, 300 mg | ClC1=NN=CC2=CC(=CC=C12)C=1C=C(C(=O)NC2CC2)C=CC1C | C19H16ClN3O
reactant | 2-methylpyrrolidine | 2664 μmol, 272 μl | CC1NCCC1 | C5H11N
solvent | NMP | 3 mL | CN1CCCC1=O | C5H9NO
product | N-cyclopropyl-4-methyl-3-(1-(2-methylpyrrolidin-1-yl)phthalazin-6-yl)benzamide | C1(CC1)NC(C1=CC(=C(C=C1)C)C=1C=C2C=NN=C(C2=CC1)N1C(CCC1)C)=O | C24H26N4O
